US06514965B1
3(R,S)-Ethoxycarbonyl-1-ethyl-8-methoxy-2,3,4,5-tetrahydro-1H-1-benzazepine-2-one
A suspension of 3(R,S)-ethoxycarbonyl-8-methoxy-2,3,4,5-tetrahydro-1H-1-benzazepine-2-one (0.45 g, 1.71 mmol), ethyl iodide (0.41 mL, 5.1 mmol) and Cs2CO3 (1.672 g, 5.1 mmol) in acetonitrile (5 mL) was stirred at room temperature for 6 hrs. The reaction mixture was filtered and the solid was washed with acetonitrile. The combined filtrate and washer were evaporated under reduced pressure. The crude product was purified by flash chromatography on a short silica gel column using EtOAc/hexane (3:7) as an eluent. The title compound (0.241 g, 48%) was obtained as an oil.

reactant | 3(R,S)-ethoxycarbonyl-8-methoxy-2,3,4,5-tetrahydro-1H-1-benzazepine-2-one | 1.71 mmol, 0.45 g | C(C)OC(=O)C1C(NC2=C(CC1)C=CC(=C2)OC)=O | C14H17NO4
reactant | ethyl iodide | 5.1 mmol, 0.41 mL | C(C)I | C2H5I
reactant | Cs2CO3 | 5.1 mmol, 1.672 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 3(R,S)-Ethoxycarbonyl-1-ethyl-8-methoxy-2,3,4,5-tetrahydro-1H-1-benzazepine-2-one | 0.241 g, 48% | C(C)OC(=O)C1C(N(C2=C(CC1)C=CC(=C2)OC)CC)=O | C16H21NO4
